US09085555B2
(3-Chloro-2-fluoro-5-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester
was prepared according to Scheme C2 (step C) from (3-chloro-2-fluoro-5-formyl-benzyl)-carbamic acid tert-butyl ester (200 mg, 0.59 mmol), N-methoxyethyl-methylamine (74 mg, 0.83 mmol), acetic acid (0.06 mL, 1.0 mmol) and sodium triacetoxyborohydride (368 mg, 1.7 mmol) in THF (8 mL). MS (LC-MS): 362.3 [M+H]+; tR (HPLC conditions c): 4.04 min.

reactant | (3-chloro-2-fluoro-5-formyl-benzyl)-carbamic acid tert-butyl ester | 0.59 mmol, 200 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C=O)Cl)F)=O | C13H15ClFNO3
reactant | N-methoxyethyl-methylamine | 0.83 mmol, 74 mg | COCCNC | C4H11NO
reactant | acetic acid | 1.0 mmol, 0.06 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.7 mmol, 368 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (3-Chloro-2-fluoro-5-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)CN(C)CCOC)Cl)F)=O | C17H26ClFN2O3
